US07847101B2
5-Methyl-4-(6-methylaminomethylbenzothiazol-2-yl)-2H-pyrazol-3-ylamine (574-36E):
The title compound (1.6 mg) was prepared starting from 18 mg of 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine and excess methylamine. MS (m/z, ES+): 274.1 (M+1, 100%), 243.1 (M-CH3NH, 60%).

reactant | 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 18 mg | BrCC1=CC2=C(N=C(S2)C2=C(NN=C2C)N)C=C1 | C12H11BrN4S
reactant | methylamine | CN | CH5N
product | 5-Methyl-4-(6-methylaminomethylbenzothiazol-2-yl)-2H-pyrazol-3-ylamine | 1.6 mg | CC=1C(=C(NN1)N)C=1SC2=C(N1)C=CC(=C2)CNC | C13H15N5S
